US07452894B2
9-(2-Fluorobenzyl)-6-(4-methyl-2-thiazolyl)-9H-purine-2-amine (Example 244)
A stirred suspension of 2-amino-9-(2-fluorobenzyl)-9H-purine-6-thiocarboxamide (200 mg, 0.5 mmol) and chloroacetone (1 mL) in isopropanol (5 mL) was heated at 80° C. for 2 h, filtered and the filtrate concentrated in vacuo and purified by chromatography [SiO2; EtOAc] to give the title compound (26 mg, 12%) as a yellow solid.

reactant | 2-amino-9-(2-fluorobenzyl)-9H-purine-6-thiocarboxamide | 0.5 mmol, 200 mg | NC1=NC(=C2N=CN(C2=N1)CC1=C(C=CC=C1)F)C(N)=S | C13H11FN6S
reactant | chloroacetone | 1 mL | ClCC(C)=O | C3H5ClO
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 9-(2-Fluorobenzyl)-6-(4-methyl-2-thiazolyl)-9H-purine-2-amine | 26 mg, 12% | FC1=C(CN2C3=NC(=NC(=C3N=C2)C=2SC=C(N2)C)N)C=CC=C1 | C16H13FN6S
